US04694098
9 Grams of the 4-[p-(2-chloroethyl)phenyl]pentylcyclohexane, 100 ml of dimethyl sulfoxide ((CH3)2SO) and 23 g of sodium cyanide (NaCN) were stirred together at 140° to 150° C. for 2 hours. After the resulting mixture was cooled, a 10% aqueous sodium hypochlorite (NaClO) solution was added. Further, water was added thereto, and the precipitate was recrystallized from ligroin to obtain 4-[p-(2-cyanoethyl)phenyl]pentylcyclohexane. The melting point of this compound was 44° to 46° C.

reactant | 4-[p-(2-chloroethyl)phenyl]pentylcyclohexane | ClCCC1=CC=C(C=C1)C(CCCC1CCCCC1)C | C19H29Cl
reactant | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
reactant | sodium cyanide | 23 g | [C-]#N.[Na+]
reactant | sodium hypochlorite | Cl[O-].[Na+]
solvent | water | O | H2O
product | 4-[p-(2-cyanoethyl)phenyl]pentylcyclohexane | C(#N)CCC1=CC=C(C=C1)C(CCCC1CCCCC1)C | C20H29N
